data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_624455_2,[N:1](/[C:2](=[C:3]([C:4](/[N:8]([H:17])[H:18])=[N:9]\[H:19])\[N:7]([H:15])[H:16])[N:6]([H:13])[H:14])([N:5]([H:11])[H:12])[H:10]>>[N:1](/[C:3](=[C:2]([C:4](/[N:8]([H:17])[H:18])=[N:9]\[H:19])\[N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([N:5]([H:11])[H:12])[H:10],64.63752000002842
MR_602892_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:19])([H:20])[H:21])([H:10])[H:11])=[C:8]([H:17])[H:18])[C:5](=[C:7]([H:15])[H:16])[O:9]1>>[C@@:1]1([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:19])([H:20])[H:21])([H:10])[H:11])=[C:8]([H:17])[H:18])[C:5](=[C:7]([H:15])[H:16])[O:9]1,62.3891875000335
MR_190558_1,[C:1](/[C:3]([N:5]([H:12])[H:13])=[N:7]\[C:2]([H:14])([H:15])[H:16])([N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]1([N:4]([H:10])[H:11])([H:9])[C:3]([N:5]([H:12])[H:13])([O:6][H:8])[N:7]1[C:2]([H:14])([H:15])[H:16],53.42911500000554
MR_281641_1,[C:1](/[C:6](=[C:7](/[C:2]([H:17])([H:18])[H:19])[C:5](=[C:8]([C:3]([H:20])([H:21])[H:25])[C:4]([H:22])([H:23])[H:24])[N:9]([H:12])[H:13])[O:10][H:11])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([O:10][H:11])[C:7]([C:2]([H:17])([H:18])[H:19])=[C:5]([N:9]([H:12])[H:13])[C:8]1([C:3]([H:20])([H:21])[H:25])[C:4]([H:22])([H:23])[H:24])([H:14])([H:15])[H:16],33.97096750001609
MR_695778_0,[C:1]([C:2]([N:6]([H:11])[H:12])([N:8]=[O:9])[H:10])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[O:7][C:3]([H:13])([H:14])[H:15]>>[C:1]([C:2]([N:6]([H:11])[H:12])([O:7][C:3]([H:13])([H:14])[H:15])[H:10])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[N:8]=[O:9],56.18885999999336
MR_354713_1,[C:1]([C@@:2]([N:3]([H:12])[H:13])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([O:6][H:8])([O:7][H:9])[H:10]>>[C:1]([C@@:4]1([H:14])[C@:2]([N:3]([H:12])[H:13])([H:11])[C:5]1([H:15])[H:16])([O:6][H:8])([O:7][H:9])[H:10],60.66732749999346
MR_182357_1,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[N:7]\[H:11])=[C:5](\[O:6][H:8])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:2]([N:4]([H:9])[H:10])[N:7]([H:11])[C:5]1([O:6][H:8])[H:12])([H:13])([H:14])[H:15],39.42770750000747
MR_166290_0,[C:1]([C:3]([O:6][H:9])=[O:8])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])[N:7]([C:3]([O:6][H:9])=[O:8])[N:5]([H:10])[H:11])([H:12])[H:13],64.91863999999637
MR_128202_0,[N:1](/[C:2](=[N:3]\[H:8])[N:5]([H:9])[H:10])([O:4][H:6])[H:7]>>[N:1](/[C:2]([N:3]([H:8])[H:9])=[N:5]\[H:10])([O:4][H:6])[H:7],44.96037500002117
MR_690198_0,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:4]([N:6]([H:13])[H:14])[H:9])[N:5]([H:11])[H:12])([O:7][H:8])[H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:5]([H:11])[H:12])[O:7][H:8])([N:4]([N:6]([H:13])[H:14])[H:9])[H:10],67.20901500002782
MR_638932_0,[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:7]/[C:2]([H:13])([H:14])[H:15])([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[H:8]>>[C:1]1([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:4]([C:3]([H:16])([H:17])[H:18])([H:8])[N:7]1[C:2]([H:13])([H:14])[H:15],50.12846499999228
MR_446037_0,[C:1](\[C:2]([C:3]([O:7][H:8])([H:13])[H:14])([N:5]([H:9])[H:11])[H:10])([C:4]([H:15])([H:16])[H:17])=[N:6]/[H:12]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[C:2]([C:3]([O:7][H:8])([H:13])[H:14])([H:10])[N:5]1[H:9],63.45907500000749
MR_236706_0,[C@:1]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[O:7][H:9])(/[C:5](=[N:8]\[H:11])[H:12])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](\[C@:6]([C:3]([H:17])([H:18])[H:19])(/[C:5](=[N:8]\[H:11])[H:12])[H:13])[O:7][H:9])[H:10],70.78827500005104
MR_145599_0,[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])([N:6]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])[C:7]([O:8][H:10])=[O:9]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])[C@:7]([N:6]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([O:8][H:10])[O:9]1,64.54025749998863
MR_66595_0,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])[N:5]([H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([O:6]/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:3]\[N:5]([H:7])[H:8])([H:9])([H:10])[H:11],70.60190749998654
MR_107996_2,[C:1]1([C:4]([H:17])([H:18])[H:19])([H:11])[C:6]([C:2]([O:7][H:9])([H:12])[H:13])([N:5]([C:3]([H:14])([H:15])[H:16])[H:10])[O:8]1>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:3]([H:14])([H:15])[H:16])[H:10])([C:6]([C:2]([O:7][H:9])([H:12])[H:13])=[O:8])[H:11],42.322992499974106
MR_517385_0,[C:1](\[C:2]([N:4]([H:11])[H:12])=[C:5]([H:13])[H:14])([O:6][H:8])=[N:7]\[N:3]([H:9])[H:10]>>[C:1]1([O:6][H:8])=[C:2]([N:4]([H:11])[H:12])[C:5]([H:13])([H:14])[N:7]1[N:3]([H:9])[H:10],54.04657499998038
MR_477305_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])/[C:6](=[C:5](/[O:7][H:8])[H:13])[H:14]>>[C:1](\[C:2]([H:15])([H:16])[H:17])([N:4]([H:9])[H:12])=[C:6](\[C@:5]([N:3]([H:10])[H:11])([O:7][H:8])[H:13])[H:14],53.9919825000112
